US07696240B2
1-Naphthalen-1-ylmethyl-6-trifluoromethyl-1H-indole-2-carboxylic acid
Using general procedure B, 6-trifluoromethyl-1H-indole-2-carboxylic acid methyl ester was coupled with 1-bromomethyl-naphthalene and the product obtained was hydrolyzed to give the title compound as white solid. MS: 368.0 ([M−H]−).

reactant | 6-trifluoromethyl-1H-indole-2-carboxylic acid methyl ester | COC(=O)C=1NC2=CC(=CC=C2C1)C(F)(F)F | C11H8F3NO2
reactant | 1-bromomethyl-naphthalene | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
product | 1-Naphthalen-1-ylmethyl-6-trifluoromethyl-1H-indole-2-carboxylic acid | C1(=CC=CC2=CC=CC=C12)CN1C(=CC2=CC=C(C=C12)C(F)(F)F)C(=O)O | C21H14F3NO2
